* C:\Users\Aditya\eSim-Workspace\MC1496_IC1\MC1496_IC1.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 07/29/24 18:06:25

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
X1  SIG Net-_R7-Pad1_ Net-_R7-Pad2_ Net-_R2-Pad1_ Net-_U5-Pad1_ OUT_p ? Net-_C3-Pad2_ ? Net-_C2-Pad2_ ? OUT_n ? Net-_X1-Pad14_ MC1496		
R7  Net-_R7-Pad1_ Net-_R7-Pad2_ 1k		
R9  Net-_C2-Pad2_ Net-_C3-Pad2_ 51		
R10  Net-_C3-Pad2_ GND 1k		
R11  Net-_C4-Pad2_ Net-_C3-Pad2_ 1k		
R2  Net-_R2-Pad1_ Net-_C1-Pad1_ 10k		
R1  SIG Net-_C1-Pad1_ 10k		
R3  SIG GND 51		
R6  Net-_R2-Pad1_ GND 51		
R8  Net-_R8-Pad1_ GND 6.8k		
R4  OUT_p Net-_C4-Pad2_ 3.9k		
R5  Net-_C4-Pad2_ OUT_n 3.9k		
v3  Net-_C4-Pad2_ GND DC		
v2  Net-_X1-Pad14_ GND DC		
v1  SIG GND sine		
v4  CAR GND sine		
U4  CAR plot_v1		
U1  SIG plot_v1		
U2  OUT_p plot_v1		
U3  OUT_n plot_v1		
C1  Net-_C1-Pad1_ GND 0.47u		
C2  CAR Net-_C2-Pad2_ 0.1u		
C3  GND Net-_C3-Pad2_ 0.1u		
C4  GND Net-_C4-Pad2_ 2.47u		
U5  Net-_U5-Pad1_ Net-_R8-Pad1_ plot_i2		

.end
