* c:\users\aditya\esim-workspace\mc1496_ic1\mc1496_ic1.cir

.include MC1496IC1.sub
x1 sig net-_r7-pad1_ net-_r7-pad2_ net-_r2-pad1_ net-_u5-pad1_ out_p ? net-_c3-pad2_ ? net-_c2-pad2_ ? out_n ? net-_x1-pad14_ MC1496IC1
r7  net-_r7-pad1_ net-_r7-pad2_ 1k
r9  net-_c2-pad2_ net-_c3-pad2_ 51
r10  net-_c3-pad2_ gnd 1k
r11  net-_c4-pad2_ net-_c3-pad2_ 1k
r2  net-_r2-pad1_ net-_c1-pad1_ 10k
r1  sig net-_c1-pad1_ 10k
r3  sig gnd 51
r6  net-_r2-pad1_ gnd 51
r8  net-_r8-pad1_ gnd 6.8k
r4  out_p net-_c4-pad2_ 3.9k
r5  net-_c4-pad2_ out_n 3.9k
v3 net-_c4-pad2_ gnd  dc 12
v2 net-_x1-pad14_ gnd  dc -8
v1  sig gnd sine(0 0.7 50 0 0)
v4  car gnd sine(0 3 1k 0 0)
* u4  car plot_v1
* u1  sig plot_v1
* u2  out_p plot_v1
* u3  out_n plot_v1
c1  net-_c1-pad1_ gnd 0.47u
c2  car net-_c2-pad2_ 0.1u
c3  gnd net-_c3-pad2_ 0.1u
c4  gnd net-_c4-pad2_ 2.47u
* u5  net-_u5-pad1_ net-_r8-pad1_ plot_i2
v_u5 net-_u5-pad1_ net-_r8-pad1_ 0
.tran 0.01e-03 40e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(car)
plot v(sig)
plot v(out_p)
plot v(out_n)
plot i(v_u5)
.endc
.end
