* c:\fossee\esim\library\subcircuitlibrary\mc1496_ic\mc1496_ic.cir

.include D.lib
.include NPN.lib
q1 net-_q1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
q4 net-_q4-pad1_ net-_q4-pad2_ net-_q1-pad3_ Q2N2222
q5 net-_q1-pad1_ net-_q4-pad2_ net-_q5-pad3_ Q2N2222
q8 net-_q4-pad1_ net-_q1-pad2_ net-_q5-pad3_ Q2N2222
q2 net-_q1-pad3_ net-_q2-pad2_ net-_q2-pad3_ Q2N2222
q3 net-_q2-pad3_ net-_d1-pad1_ net-_q3-pad3_ Q2N2222
q7 net-_q5-pad3_ net-_q7-pad2_ net-_q6-pad1_ Q2N2222
q6 net-_q6-pad1_ net-_d1-pad1_ net-_q6-pad3_ Q2N2222
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
r1  net-_d1-pad2_ net-_r1-pad2_ 500
r2  net-_q3-pad3_ net-_r1-pad2_ 500
r3  net-_q6-pad3_ net-_r1-pad2_ 500
* u1  net-_q7-pad2_ net-_q6-pad1_ net-_q2-pad3_ net-_q2-pad2_ net-_d1-pad1_ net-_q1-pad1_ gnd net-_q1-pad2_ gnd net-_q4-pad2_ gnd net-_q4-pad1_ gnd net-_r1-pad2_ port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
