* Subcircuit CA3240_OP
.subckt CA3240_OP net-_m4-pad2_ net-_m2-pad2_ net-_m3-pad2_ net-_d2-pad2_ net-_d1-pad1_ 
* c:\fossee\esim\library\subcircuitlibrary\ca3240_op\ca3240_op.cir
.include PMOS-180nm.lib
.include PNP.lib
.include NPN.lib
.include D.lib
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
q6 net-_q6-pad1_ net-_d1-pad2_ net-_d1-pad1_ Q2N2907A
q3 net-_m1-pad3_ net-_q1-pad1_ net-_d1-pad2_ Q2N2907A
q7 net-_m2-pad3_ net-_q1-pad1_ net-_q6-pad1_ Q2N2907A
q1 net-_q1-pad1_ net-_d1-pad2_ net-_d1-pad1_ Q2N2907A
q8 net-_q13-pad1_ net-_d1-pad2_ net-_d1-pad1_ Q2N2907A
q9 net-_c1-pad1_ net-_q1-pad1_ net-_q13-pad1_ Q2N2907A
q2 net-_q1-pad1_ net-_m1-pad3_ net-_q2-pad3_ Q2N2222
r1  net-_q2-pad3_ net-_d2-pad2_ 8000
d2 net-_d2-pad1_ net-_d2-pad2_ 1N4148
* u1  net-_u1-padin_ net-_m2-pad2_ zener
* u3  net-_u1-padin_ net-_m3-pad2_ zener
* u2  net-_u1-padin_ net-_m2-pad3_ zener
m2 net-_m2-pad1_ net-_m2-pad2_ net-_m2-pad3_ net-_m2-pad3_ CMOSP W=100u L=100u M=1
m3 net-_m3-pad1_ net-_m3-pad2_ net-_m2-pad3_ net-_m2-pad3_ CMOSP W=100u L=100u M=1
m1 net-_d2-pad1_ net-_d2-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSP W=100u L=100u M=1
r2  net-_m2-pad1_ net-_q4-pad1_ 500
r4  net-_m3-pad1_ net-_c1-pad2_ 500
q4 net-_q4-pad1_ net-_m2-pad1_ net-_q4-pad3_ Q2N2222
q5 net-_c1-pad2_ net-_m2-pad1_ net-_q5-pad3_ Q2N2222
r3  net-_q4-pad3_ net-_d2-pad2_ 500
r5  net-_q5-pad3_ net-_d2-pad2_ 500
q10 net-_c1-pad1_ net-_c1-pad2_ net-_d2-pad2_ Q2N2222
c1  net-_c1-pad1_ net-_c1-pad2_ 12p
q11 net-_d1-pad1_ net-_c1-pad1_ net-_q11-pad3_ Q2N2222
q13 net-_q13-pad1_ net-_q13-pad2_ net-_q13-pad3_ Q2N2222
r7  net-_q14-pad2_ net-_q11-pad3_ 1000
q14 net-_q13-pad3_ net-_q14-pad2_ net-_m4-pad2_ Q2N2222
q12 net-_q11-pad3_ net-_d2-pad1_ net-_q12-pad3_ Q2N2222
q15 net-_m4-pad2_ net-_d2-pad1_ net-_d2-pad2_ Q2N2222
r6  net-_q12-pad3_ net-_d2-pad2_ 50
q16 net-_m4-pad2_ net-_d4-pad1_ net-_d2-pad2_ Q2N2222
d4 net-_d4-pad1_ net-_d4-pad2_ 1N4148
r12  net-_d4-pad2_ net-_d2-pad2_ 30
r8  net-_r10-pad2_ net-_q13-pad2_ 1000
r10  net-_q13-pad3_ net-_r10-pad2_ 20
r9  net-_r10-pad2_ net-_d3-pad2_ 50
d3 net-_d1-pad1_ net-_d3-pad2_ 1N4148
q17 net-_d1-pad1_ net-_q17-pad2_ net-_q17-pad3_ Q2N2222
r11  net-_m4-pad3_ net-_q17-pad3_ 12000
r13  net-_q17-pad2_ net-_d1-pad1_ 15000
r14  net-_d2-pad2_ net-_r14-pad2_ 20000
m4 net-_d4-pad1_ net-_m4-pad2_ net-_m4-pad3_ net-_m4-pad3_ CMOSP W=100u L=100u M=1
* u4  net-_r14-pad2_ net-_q17-pad2_ zener
a1 net-_u1-padin_ net-_m2-pad2_ u1
a2 net-_u1-padin_ net-_m3-pad2_ u3
a3 net-_u1-padin_ net-_m2-pad3_ u2
a4 net-_r14-pad2_ net-_q17-pad2_ u4
* Schematic Name:                             zener, NgSpice Name: zener
.model u1 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u3 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u2 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u4 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Control Statements

.ends CA3240_OP