* Subcircuit MPY_100
.subckt MPY_100 net-_r12-pad1_ net-_u1-pad2_ net-_i1-pad2_ net-_q1-pad2_ net-_q2-pad2_ net-_r8-pad1_ net-_r9-pad2_ net-_q4-pad2_ net-_q6-pad2_ net-_r2-pad1_ 
* c:\fossee\esim\library\subcircuitlibrary\mpy_100\mpy_100.cir
.include CA3240_OP.sub
.include D.lib
.include NPN.lib
q1 net-_d1-pad2_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
q2 net-_d2-pad2_ net-_q2-pad2_ net-_q2-pad3_ Q2N2222
q4 net-_q3-pad3_ net-_q4-pad2_ net-_q4-pad3_ Q2N2222
q6 net-_q6-pad1_ net-_q6-pad2_ net-_q6-pad3_ Q2N2222
q9 net-_q5-pad1_ net-_q9-pad2_ net-_q9-pad3_ Q2N2222
q10 net-_q10-pad1_ net-_q10-pad2_ net-_q10-pad3_ Q2N2222
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
d2 net-_d1-pad1_ net-_d2-pad2_ 1N4148
q3 net-_q10-pad1_ net-_d2-pad2_ net-_q3-pad3_ Q2N2222
q5 net-_q5-pad1_ net-_d1-pad2_ net-_q3-pad3_ Q2N2222
q7 net-_q10-pad1_ net-_d1-pad2_ net-_q6-pad1_ Q2N2222
q8 net-_q5-pad1_ net-_d2-pad2_ net-_q6-pad1_ Q2N2222
r1  net-_q1-pad3_ net-_i1-pad1_ 25k
r3  net-_q2-pad3_ net-_i1-pad1_ 25k
r5  net-_q4-pad3_ net-_i2-pad1_ 25k
r6  net-_q6-pad3_ net-_i2-pad1_ 25k
r9  net-_q9-pad2_ net-_r9-pad2_ 25k
r10  net-_q9-pad3_ net-_i3-pad1_ 25k
r11  net-_q10-pad3_ net-_i3-pad1_ 25k
r7  net-_r2-pad1_ net-_q5-pad1_ 10k
r4  net-_r2-pad1_ net-_q10-pad1_ 10k
r2  net-_r2-pad1_ net-_d1-pad1_ 10k
r12  net-_r12-pad1_ net-_q10-pad2_ 5k
x1 net-_u1-pad2_ net-_q5-pad1_ net-_q10-pad1_ net-_i1-pad2_ net-_r2-pad1_ CA3240_OP
i1 net-_i1-pad1_ net-_i1-pad2_  dc 500u
i2 net-_i2-pad1_ net-_i1-pad2_  dc 500u
i3 net-_i3-pad1_ net-_i1-pad2_  dc 500u
r8  net-_r8-pad1_ net-_q9-pad2_ 145k
* Control Statements

.ends MPY_100